Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
spironolactone
 
Attending: ___.
 
Chief Complaint:
s/p Fall, Urinary Retention, UTI
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
 Mrs. ___ is a ___ year old woman, pmh of T1DM, PVD s/p right 
leg amputation, recent admission for AMS s/p fall with hospital 
course complicated by ___, DKA, and hypertensive emergency, 
admitted to medicine s/p fall with AMS, ___, and urinary 
retention. Pt suffered a mechanicall fall on ___ after a 
recent discharge from rehab on ___. She fell onto her left 
hip while using ambulating with walker, now experiencing left 
hip and LLE pain, with assoc. nausea and vomiting. Pt has also 
not urinated in 3 days, and is currently taking cipro for UTI. 
She denies fevers, chest pain, cough, abdominal pain. 

In the ED, initial vital signs were: 8 T 98.0  P 94 BP 124/54 R 
20 O2 sat 99% RA, 99% 2L.  Labs were notable for K 5.4, Cr 3.7 
(baseline 1.0-1.1), leukocytosis to 15.3, lactate 1.3, alk phos 
125. CXR was negative for consolidation, effusion or PTX. XRAY 
of the lumbar-sacral spine, left tibia/fibula, femur, and pelvis 
were negative for fx, or dislocation.  

Patient was given insulin for hyperglycemia to 302 and oxycodone 
for pain, and was admitted to the floor. 

On the floor, pt endorses recent nausea and vomiting ___ 
gastroparesis. She also c/o left hip pain assoc. with recent 
fall. Denies chest pain, SOB, recent cough, other joint or 
muscle pain, abdominal pain, vision changes, syncope.  
 
 
Past Medical History:
PAST MEDICAL HISTORY
- h/o DVT, unknown when  
- DMI on insulin pump. Followed by 
___.  (pump currently off)
- Peripheral neuropathy  
- h/o gastroparesis  
- Chronic LBP/sciatica  
- HTN  
- Hyperlipidemia  
- Hypothyroidism  
- PVD/PAD  
- Autonomic dysfunction, orthostatic hypotension  
- Question of seizure ___ characterized by becoming less  
responsive, oriented to name only, gaze deviation and left arm  
shaking. ___ 297 and was in the setting of receiving cipro, Neuro 

felt ___ infection vs PRES.  
- Barretts Esophagus on EGD ___  
- Depression  
- MI ___, no stents 
- admission in ___ for AMS, ___, complicated by DKA, 
Hypertensive Emergency

PAST SURGICAL HISTORY
___ - Malunion right intertrochanteric hip fracture with  
protrusion of screw s/p revision arthroplasty  
___ Comminuted right intertrochanteric hip fracture s/p right 
hip fracture open reduction internal fixation (intramedullary  
nail)  
___ RLE angiography  
RLE SFA-AT BPG with NRSVG ___  
Angioplasty of vein graft ___  
___, L hip hemiarthroplasty  
- Hiatal hernia  
- s/p laminectomy  
- s/p hysterectomy

 
Social History:
___
Family History:
Mother - coronary artery disease with MI in her ___, died at age 
___. 
Father - coronary artery disease with MI in her ___, died at age 
___.  

 
Physical Exam:
INITIAL PHYSICAL EXAM

Vitals-  98.4 132/40 79 16 99% 3L
General- sleepy, but arousable to voice 
HEENT- Sclera anicteric, MMM 
Neck- supple, JVP not elevated  
Lungs- Clear to auscultation bilaterally with decreased breath 
sounds at bases
CV- Regular rate and rhythm, systolic murmur
Abdomen- soft, non-tender, mildly distended abdomen, bowel 
sounds present, no rebound tenderness or guarding, no 
organomegaly    
Ext- warm, well perfused,  no edema, BKA of right leg with no 
tenderness at stump 
Neuro-moving all four extremities 

DISCHARGE PHYSICAL EXAM

Vitals-  T 98.0 BP 144/56 P 72 R 16 O2Sat 98% RA
General- alert, awake, laying in bed about to eat breakfast 
HEENT- NC/AT, Sclera anicteric, MMM 
Neck- supple,  
Lungs- Clear to auscultation with minimal crackles at b/l bases
CV- Regular rate and rhythm, with systolic ejection murmur best 
heard at RUSB
Abdomen- soft, non-tender, mildly distended, bowel 
sounds present, no rebound tenderness or guarding, no 
organomegaly    
Ext- warm, well perfused,  no edema, BKA of right leg, no 
swelling, erythema or lesions.

 
Pertinent Results:
INITIAL LABS

___ 09:50AM BLOOD WBC-15.3*# RBC-3.06* Hgb-9.3* Hct-28.6* 
MCV-94 MCH-30.4 MCHC-32.5 RDW-13.2 Plt ___
___ 09:50AM BLOOD Neuts-83.8* Lymphs-9.4* Monos-5.0 Eos-1.5 
Baso-0.3
___ 09:50AM BLOOD Plt ___
___ 09:50AM BLOOD Glucose-302* UreaN-52* Creat-3.7*# 
Na-128* K-5.4* Cl-91* HCO3-21* AnGap-21*
___ 09:50AM BLOOD ALT-35 AST-42* AlkPhos-125* TotBili-0.4
___ 09:50AM BLOOD Lipase-11
___ 06:20AM BLOOD GGT-85*
___ 09:50AM BLOOD Albumin-3.8 Calcium-9.3 Phos-6.1*# Mg-2.2
___ 06:00AM BLOOD Calcium-9.1 Phos-3.8# Mg-2.1
___ 09:50AM BLOOD Lactate-1.3 K-5.2*
___ 11:30AM URINE Color-Yellow Appear-Clear Sp ___
___ 11:30AM URINE Blood-NEG Nitrite-NEG Protein-30 
Glucose-TR Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.5 Leuks-NEG
___ 11:30AM URINE RBC-0 WBC-<1 Bacteri-FEW Yeast-NONE Epi-0
___ 11:30AM URINE CastHy-28*
___ 11:30AM URINE Mucous-RARE
___ 11:30AM URINE Hours-RANDOM UreaN-249 Creat-144 Na-33 
K-36 Cl-19

___ 11:30 am URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    NO GROWTH. 

___ 11:00 am BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 

IMAGING

___ CXR
FINDINGS:
AP and lateral views of the chest.  The lungs are clear of focal
consolidation, effusion or pneumothorax.  The cardiomediastinal 
silhouette is
within normal limits.  No acute osseous abnormality detected.  
Prior
presumably posttraumatic changes seen at the right humerus.  Old 
healed right
lateral 9th rib fractures identified.
IMPRESSION:
No acute cardiopulmonary process. 

___ Lumbo-Sacral Spine
FINDINGS:
Frontal and lateral views of the lumbosacral spine.  There are 5 
lumbar type
vertebral bodies which are maintained in height and alignment.  
Degenerative
changes seen most extensively at L4-5 with intervertebral disc 
height loss,
endplate sclerosis and osteophyte formation.  There is mild 
retrolisthesis of
L5 on S1 similar to prior.  Minimal facet joint hypertrophic 
changes in the
lower lumbar spine.  Atherosclerotic calcifications noted in the 
abdominal
aorta.  Left hip arthroplasty and partially visualized right 
femoral
orthopedic hardware seen.
IMPRESSION:
Degenerative changes without acute fracture or subluxation.

___ Left Tib/Fib Films
IMPRESSION:
Left hip arthroplasty and orthopedic hardware in the right 
proximal femur.  No
evidence of fracture.

___ Left Femur, Pelvis A/P 
IMPRESSION:
Left hip arthroplasty and orthopedic hardware in the right 
proximal femur.  No
evidence of fracture.

DISCHARGE LABS

___ 06:30AM BLOOD WBC-5.6 RBC-2.96* Hgb-9.1* Hct-27.8* 
MCV-94 MCH-30.9 MCHC-32.9 RDW-12.9 Plt ___
___ 06:30AM BLOOD Plt ___
___ 08:20AM BLOOD Glucose-218* UreaN-27* Creat-1.3* Na-136 
K-5.0 Cl-98 HCO3-25 AnGap-18
___ 06:20AM BLOOD AlkPhos-127*
___ 06:20AM BLOOD GGT-85*
___ 06:30AM BLOOD Calcium-9.6 Phos-3.0 Mg-1.9
 
Brief Hospital Course:
Mrs. ___ is a ___ year old woman, pmh of T1DM, PVD s/p right 
below the knee amputation, recent admission for AMS s/p fall 
with hospital course complicated by ___, DKA, and hypertensive 
emergency, admitted to medicine s/p fall with  ___, and urinary 
retention. 

ACUTE ISSUES

# ___ 
Mrs. ___ urinary retention was most likely ___ recent 
narcotic use after being discharged from rehab. The pt was not 
taking morphine in rehab and was discharged a few days prior to 
admission. Since discharge, she has endorsed using morphine and 
oxycodone. She has had recent admissions with sedation assoc. 
with narcotic use, urinary retention and ___. Her calculated  
FeNa/FeUrea both suggested a component of pre-renal/dehydration 
which is supported by patient history (decreased po's for last 
few days). CHF was less likely given that most recent echo ___ 
showed EF>70%. Obstructive process also possible however renal 
U/S on ___ showed no nephrolithiasis, hydronephrosis, or renal 
mass. Pyelonephritis also possible however pt was afebrile and 
did not endorse any CVA tenderness on exam. A foley catheter was 
placed and her creatinine rapidly improved. Narcotics were also 
avoided in the management of Mrs. ___ chronic pain. She was 
closely monitored for the development of post-obstruction 
diuresis. Mrs. ___ remained clinically stable, and on day of 
discharge, her Cr. had downtrended to 1.3 from 3.7 on admission. 


# Type 1 Diabetes
Pt has T1D complicated by PVD, s/p right BKA. ___ was 
consulted to assist in her insulin regimen. She had one episode 
of hypoglycemia to 28. However her blood sugars stabilized with 
an adjusted insulin regimen and she remained clinically stable.  


# s/p Fall
Pt suffered mechanical fall ___, falling on left hip, no 
LOC, no head strike. Imaging of LLE and Head CT were negative 
for acute process or fx. Her pain s/p fall was managed with her 
home methadone regimen, standing tylenol, and lidocaine patches. 
Given her ___, NSAIDs were avoided for pain management, as well 
as oxycodone and morphine given the potential for urinary 
retention. Physical Therapy was consulted to evaluate the 
patient and it was determined that she was safe to return home. 

# Leukocytosis: 
Pt presents with leukocytosis to 15. Most likely reactive s/p 
fall onto left hip. No other signs of infection. Pt was afebrile 
with all other vital signs wnl. CXR showed no signs of 
consolidation, and UA was negative. On day of discharge, her 
leukocytosis had resolved and she was clinically stable. 

# Hyponatremia 
Patient presented with mildly decreased sodium to 128, new since 
last admission. Thought to be secondary to volume depletion 
given concurrent hypochloremia, history, and evidence of 
pre-renal azotemia. ___ have been exacerbated by 
post-obstruction diuresis with inability to retain Na. ___ also 
have been mixed picture though as specific gravity not 
especially concentrated. The patient received hydration with NS 
and her hyponatremia resolved. 

#Acidemia 
The patient presented with a mild metabolic acidosis based on 
low bicarb and gap (=16). No evidence of infection. Glucose 
mildly elevated but no ketones in urine. Most likely secondary 
to azotemia. Her bicarb and anion gap were monitored and had 
normalized by day of discharge. 

CHRONIC ISSUES

# Chronic Pain
Pt has chronic pain assoc. with phantom limb pain s/p right BKA 
as well as neuropathy, chronic back and shoulder pain. Also 
concerns regarding narcotic over-use given multiple admissions 
for sedation in the setting of narcotics. The patient's 
gabapentin was increased from her home dose, and her chronic 
pain was managed with her home regimen of methadone and tylenol. 
NSAIDs were avoided given the patient's ___. 

# Elevated alk phos
Alk Phos elevated to 100s on admission. This may have been ___ 
recent fall. The pt's alk phos has been elevated in past, all 
other LFTs were wnl. She has no known hx of malignancy. A GGT 
level was also elevated at 85. Recommend further out-patient 
evaluation. 

#Hypothyroidism
The patient has a known diagnosis of hypothyroidism and was 
continued on her home regimen of levothyroxine. 

# Depression
The patient has a known diagnosis of depression and remained 
clinically stable on her home regimen of Celexa. 
 
**TRANSITIONAL ISSUE
-Please consider an out-patient evaluation for the patient's 
elevated alkaline phosphatase and GGT. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amlodipine 5 mg PO BID 
2. Methadone 5 mg PO BID 
3. Labetalol 600 mg PO TID 
4. Ondansetron 4 mg PO Q6H:PRN nausea 
5. Acetaminophen 650 mg PO Q6H 
6. CloniDINE 0.1 mg PO BID 
7. Gabapentin 200 mg PO BID 
8. Docusate Sodium 100 mg PO BID 
9. Ferrous GLUCONATE 324 mg PO BID 
10. Calcitriol 0.25 mcg PO DAILY 
11. Citalopram 40 mg PO DAILY 
12. Clopidogrel 75 mg PO DAILY 
13. Cyanocobalamin 1000 mcg PO DAILY 
14. FoLIC Acid 1 mg PO DAILY 
15. Multiple Vitamin-Minerals (multivitamin with minerals) 1 
tablet oral daily 
16. Pantoprazole 40 mg PO Q24H 
17. Levothyroxine Sodium 88 mcg PO DAILY 
18. Metoclopramide 10 mg PO QIDACHS 
19. Ciprofloxacin HCl 250 mg PO Q12H 
20. Restasis (cycloSPORINE) 0.05 % ophthalmic 2 drops to both 
eyes TID 
21. Simvastatin 40 mg PO QPM (___) 
22. Albuterol Inhaler 2 PUFF IH Q6H:PRN shortness of breath 
23. Insulin  Pump SC (Self Administering Medication)
Target glucose: 80-180
24. Morphine SR (MS ___ 15 mg PO Frequency is Unknown 
25. OxycoDONE (Immediate Release)  5 mg PO Frequency is Unknown 
26. Lidocaine 5% Patch 2 PTCH TD DAILY 
27. Tiotropium Bromide 1 CAP IH DAILY 
28. Fish Oil (Omega 3) Dose is Unknown  PO OCCASIONALLY 
29. Senna 2 TAB PO DAILY 

 
Discharge Medications:
1. Amlodipine 5 mg PO BID 
2. Calcitriol 0.25 mcg PO DAILY 
3. Citalopram 40 mg PO DAILY 
4. CloniDINE 0.1 mg PO BID 
5. Clopidogrel 75 mg PO DAILY 
6. Cyanocobalamin 1000 mcg PO DAILY 
7. Docusate Sodium 100 mg PO BID 
8. FoLIC Acid 1 mg PO DAILY 
9. Gabapentin 300 mg PO TID 
10. Labetalol 600 mg PO TID 
11. Levothyroxine Sodium 88 mcg PO DAILY 
12. Methadone 5 mg PO BID 
13. Ondansetron 4 mg PO Q6H:PRN nausea 
14. Albuterol Inhaler 2 PUFF IH Q6H:PRN shortness of breath 
15. Ferrous GLUCONATE 324 mg PO BID 
16. Multiple Vitamin-Minerals (multivitamin with minerals) 1 
tablet oral daily 
17. Pantoprazole 40 mg PO Q24H 
18. Restasis (cycloSPORINE) 0.05 % ophthalmic 2 drops to both 
eyes TID 
19. Lidocaine 5% Patch 1 PTCH TD QAM 
20. Acetaminophen 650 mg PO Q6H 
21. Metoclopramide 5 mg PO QIDACHS 
22. Senna 2 TAB PO DAILY 
23. Fish Oil (Omega 3) 0 mg PO OCCASIONALLY 
24. Glargine 20 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin
25. Simvastatin 20 mg PO QPM 
26. Tiotropium Bromide 1 CAP IH DAILY 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
___:
Primary Diagnosis:
1. Acute Kidney Injury
2. Urinary Retention
Secondary Diagnosis:
1. Type 1 Diabetes
2. Chronic Pain

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___:

It was a pleasure caring for you during your stay at ___ 
___. As you know, you were admitted after 
falling, and your kidney function was found to be decreased. 
This is likely due to the pain medications you were taking 
(morphine and oxycodone) which can cause urinary retention, and 
decreased kidney function.

We managed your pain with methadone and tylenol, and placed a 
foley catheter. The foley catheter removed a significant amount 
of urine, and your kidney function improved. 

Please avoid pain medications such as oxycodone and morphine to 
prevent further urinary retention and to protect your kidneys. 
You had an episode of low blood sugar during this admission, and 
your insulin was adjusted without further incident of low blood 
sugar. Please closely follow the medication regimen we are 
discharging you on, particularly your insulin regimen. Please do 
not use your insulin pump until you discuss this with your 
diabetes doctor. 

Please follow up at the appointments listed below, including 
your diabetes doctor. 

Thank you for the opportunity to care for you.

Sincerely,

Your ___ Team
 
Followup Instructions:
___